US04378314
5-Azidovaleric acid
A solution of 5-azidovaleronitrile (12.4 g, 0.1 mol) in ethanol (50 ml) was diluted with water (12 ml) and treated with potassium hydroxide (8.4 g, 0.15 mol). The reaction mixture was refluxed for 18 h, cooled to 23° C. and washed with ether. The aqueous solution was acidified with concentrated hydrochloric acid, saturated with sodium chloride and extracted with ethyl acetate. The organic extracts were combined and dried over anhydrous sodium sulfate. The ethyl acetate was evaporated under reduced pressure and the resulting yellow liquid was distilled under high vacuum; bp 104°-6° C./(0.3 mm); 10.8 g; 87%; ir (neat) νmax : 2095 (N3) and 1708 cm-1 (C=O of carboxylic acid; 1Hmr (CDCl3) δ: 11.63 (1H, s, H of carboxylic acid), 3.3 (2H, m, δ-H), 2.4 (2H, m, α-H) and 2.0-1.2 ppm (4H, β -H and γ-H).

reactant | 5-azidovaleronitrile | 0.1 mol, 12.4 g | N(=[N+]=[N-])CCCCC#N | C5H8N4
reactant | potassium hydroxide | 0.15 mol, 8.4 g | [OH-].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 12 ml | O | H2O
product | 5-Azidovaleric acid | N(=[N+]=[N-])CCCCC(=O)O | C5H9N3O2
